US04539331
To a solution of 740 g (5.22 moles) of 3-chloro-4-methylaniline and 1054.6 g (10.44 moles) of triethylamine in 10 liters of acetone at room temperature and vigorous stirring, there were added slowly 945 g (5.22 moles) of 5-methyl-4-imidazolecarbonyl chloride hydrochloride. After the addition was ended, the mixture was refluxed for 1 hour and then allowed to cool to room temperature and filtered. The liquid filtrate was evaporated until a slight precipitation appeared, it was then poured over 20 liters of cold water with stirring, filtered and the precipitate was dried to give N-(3-chloro-4-methylphenyl)-5-methyl-4-imidazolecarboxamide, a crude yellowish product. Crystallisation from isopropyl alcohol gave 1108 g (85% yield) of the desired pure product having the same characteristics as the one obtained in Example 1.

reactant | 3-chloro-4-methylaniline | 5.22 moles, 740 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | triethylamine | 10.44 moles, 1054.6 g | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-4-imidazolecarbonyl chloride hydrochloride | 5.22 moles, 945 g | Cl.CC1=C(N=CN1)C(=O)Cl
solvent | acetone | 10 liters | CC(=O)C | C3H6O
product | N-(3-chloro-4-methylphenyl)-5-methyl-4-imidazolecarboxamide | 85% yield | ClC=1C=C(C=CC1C)NC(=O)C=1N=CNC1C | C12H12ClN3O
